US09382243B2
Step B. (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol
To a stirred solution of (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl benzoate (650 mg, 1.910 mmol) in methanol (10 mL) and THF (5 mL) was added 5N aqueous NaOH (4.0 mL, 20.0 mmol). After 18 hours the mixture was poured into saturated aqueous sodium bicarbonate (100 mL) and extracted with EtOAc (2×120 mL). The combined organic layers were dried over sodium sulfate and concentrated under reduced pressure. The resultant white solid was chromatographed using a Biotage™ 25 g silica gel cartridge eluted with 0-100% EtOAc in 1:1 Hexane/DCM over 20 column volumes. The product fractions were combined and concentrated under reduced pressure to provide the title compound as a white solid. LC-MS: calculated for C13H16O4 236.10, observed m/e: 237.15 (M+H)+ (Rt 1.13/4 min).

reactant | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-yl benzoate | 1.910 mmol, 650 mg | C(C1=CC=CC=C1)(=O)O[C@H]1C[C@@H]2OC(OC[C@H]2OC1)C1=CC=CC=C1 | C20H20O5
reactant | NaOH | 20.0 mmol, 5N, 4.0 mL | [OH-].[Na+]
reactant | sodium bicarbonate | 100 mL | C([O-])(O)=O.[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4aR,7S,8aS)-2-phenylhexahydropyrano[3,2-d][1,3]dioxin-7-ol | C1(=CC=CC=C1)C1OC[C@@H]2[C@@H](O1)C[C@@H](CO2)O | C13H16O4
